US07326699B2
A solution of 42 mg (0.095 mmol) of cis-3-[4-amino-5-(3-benzyloxy-phenyl)pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid dimethylamide in 2 ml of anhydrous THF is added dropwise at 0° C. to a 10 mg of lithium aluminium hydride suspended in 2 ml of anhydrous THF. The reaction mixture is slowly warmed to RT overnight. For working-up, the reaction mixture is cooled to 0° C. and then water and a 15% NaOH solution are added in succession thereto. The solution is partitioned between water and ethyl acetate. Drying the organic layer over magnesium sulfate, concentrating in vacuo and purifying by medium-pressure liquid chromatography yield cis-5-(3-benzyloxy-phenyl)-7-(3-dimethylaminomethyl-cyclobutyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine. Analytical HPLC: tR=5.98 min (Grad 2); ES-MS: m/eo=428.1.

reactant | cis-3-[4-amino-5-(3-benzyloxy-phenyl)pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid dimethylamide | 0.095 mmol, 42 mg | CN(C(=O)[C@@H]1C[C@@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2)C | C26H27N5O2
reactant | lithium aluminium hydride | 10 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | cis-5-(3-benzyloxy-phenyl)-7-(3-dimethylaminomethyl-cyclobutyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2C[C@@H](C2)CN(C)C | C26H29N5O
